US06967196B1
4-chloro-N-(5-chloro-2-fluorophenyl)-N-[4-(morpholinyl)-1(R)-methylbutyl]benzenesulfonamide was prepared analogous to 4-chloro-N-(2,5-dichlorophenyl)-N-[4-[[4-(methylsulfonyl)methyl]-1-piperidinyl]-1(R)-methylbutyl]benzenesulfonamide by reacting 4-chloro-N-(5-chloro-2-fluorophenyl)-N-[4-bromo-1(R)-methylbutyl]benzenesulfonamide with morpholine. Yield=87%; MS (ESI+), 475 (M+H)+.

reactant | 4-chloro-N-(5-chloro-2-fluorophenyl)-N-[4-bromo-1(R)-methylbutyl]benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCBr)C)C1=C(C=CC(=C1)Cl)F | C17H17BrCl2FNO2S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-chloro-N-(5-chloro-2-fluorophenyl)-N-[4-(morpholinyl)-1(R)-methylbutyl]benzenesulfonamide | Yield=87% | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCN1CCOCC1)C)C1=C(C=CC(=C1)Cl)F | C21H25Cl2FN2O3S
